US05008267
6-chloro-1,3,5-trimethyl-2,4(1H,3H)-pyrimidinedione (3.4 g) was suspended in 30 ml of isopropanol, and the suspension was added with 1.26 ml of ethanolamine and 3.8 ml of triethylamine and then the resultant mixture was refluxed for 3 hours. The reaction mixture was allowed to stand overnight at room temperature, and thereafter crystals formed were collected by filtration, washed with water and then recrystallized using a water-ethanol solution (1:1, v/v), thereby 2.9 g of 6-(2-hydroxyethylamino)-1,3,5-trimethyl-2,4(1H,3H)-pyrimidinedione being obtained.

reactant | 6-chloro-1,3,5-trimethyl-2,4(1H,3H)-pyrimidinedione | 3.4 g | ClC1=C(C(N(C(N1C)=O)C)=O)C | C7H9ClN2O2
reactant | ethanolamine | 1.26 ml | C(O)CN | C2H7NO
reactant | triethylamine | 3.8 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 6-(2-hydroxyethylamino)-1,3,5-trimethyl-2,4(1H,3H)-pyrimidinedione | 2.9 g | OCCNC1=C(C(N(C(N1C)=O)C)=O)C | C9H15N3O3
